US04125626
Glutathione and L-DOPA were incubated with a partially purified preparation of sheep kidney γ-glutamyl transpeptidase. γ-Glutamyl-DOPA was isolated from the incubation mixture by preparative ion exchange chromatography on a Dowex-1 (acetate) column. 6.14 of glutathione (0.02 mole) and 1.97 g of L-DOPA (0.01 mole) were dissolved in 200 ml of 1 M Tris (base) solution. 2.5 ml of γ-glutamyl transpeptidase solution (100 units/ml) were added and the flask was flushed with nitrogen to protect DOPA from oxidation and the mixture was incubated at 37° for 6 hours. L-γ-glutamyl-L-3,4-dihydroxyphenylalanine (γ-glutamyl-DOPA) was isolated by ion exchange chromatography as in Example 1. It emerges from the column when approximately 2 liters of the eluent passed through the column. Unreacted. glutathione, free glutamate and cysteinylglycine emerge from the column in earlier fractions.

reactant | glutathione | 0.02 mole | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
reactant | L-DOPA | 0.01 mole, 1.97 g | O=C(O)[C@@H](N)CC1=CC=C(O)C(O)=C1 | C9H11NO4
solvent | Tris | 1 M, 200 ml | C(C(CO)(CO)N)O | C4H11NO3
product | γ-glutamyl-DOPA | N[C@@H](CCC(=O)N[C@H](C(=O)O)CC1=CC=C(O)C(O)=C1)C(=O)O | C14H18N2O7
